US08912208B2
A. {4-[4-(5-Bromo-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester
To a solution of {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester (4.0 g, 11.2 mmol, 1.0 equiv) and 2,5-dibromopyridine (3.2 g, 13.4 mmol, 1.2 equiv) in 50 Ml toluene/ethanol (1:1) was added 2 M Na2CO3 (16.8 Ml, 3 equiv) followed by Pd(PPh3)4 (0.38 g, 0.34 mmol, 0.03 equiv). The biphasic mixture was sparged with nitrogen for 10 min, then heated to 60° C. for 3 days. The reaction was cooled to room temperature and then partitioned between ethyl acetate and saturated ammonium chloride solution. The organic extracts were washed with brine, then dried over sodium sulphate and concentrated in vacuo. Purification by silica gel chromatography (7-40% EtOAc in hexanes) afforded the title compound as a yellow solid: 1H NMR (400 MHz, CDCl3) 1.11 (dd, J=13.01, 2.15 Hz, 2 H) 1.41-1.54 (m, 2 H) 1.76-1.90 (m, 5 H) 2.20 (d, J=6.57 Hz, 2 H) 2.46 (tt, J=12.09, 3.19 Hz, 1 H) 3.62 (s, 3 H) 7.23 (d, J=8.08 Hz, 2 H) 7.53 (dd, J=8.59, 0.76 Hz, 1 H) 7.77 (dd, J=8.46, 2.40 Hz, 1 H) 7.81 (q, J=3.87 Hz, 1 H) 7.81 (d, J=8.34 Hz, 1 H) 8.64 (d, J=1.77 Hz, 1 H); (M+H)+ 390.0.

reactant | {4-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | 11.2 mmol, 4.0 g, 1.0 equiv | COC(CC1CCC(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O | C21H31BO4
reactant | 2,5-dibromopyridine | 13.4 mmol, 3.2 g, 1.2 equiv | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | Na2CO3 | 2 M, 3 equiv | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.34 mmol, 0.38 g, 0.03 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene ethanol | C1(=CC=CC=C1)C.C(C)O
product | {4-[4-(5-Bromo-pyridin-2-yl)-phenyl]-cyclohexyl}-acetic acid methyl ester | COC(CC1CCC(CC1)C1=CC=C(C=C1)C1=NC=C(C=C1)Br)=O | C20H22BrNO2
